US05109013
3,4-Dihydro-1,4-dimethyl-2-[2-(4-phenyl-1-piperazinyl)ethyl]-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one hemihydrate
To a 50 mL of toluene containing 3.0 g (0.03 mol) of triethylamine and 2.94 g (0.0183 mol) of N-phenylpiperazine was added 3.5 g (0.012 mol) of 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one. The reaction mixture was heated to reflux for 7 days. (Note: 3.19 g (0.02 mol) of N-phenylpiperazine was added after ~2 days followed by 1.60 g (0.1 mol) after ~2 additional days during the week). After cooling to room temperature, the entire reaction mixture was treated with ~5 mL of acetic anhydride and stirred at room temperature for 2 hr. The reaction mixture was washed with 2×50 mL of 1N NaOH, dried over Na2SO4, filtered and concentrated by rotary evaporation. The residue was subjected to preparative HPLC using isopropyl alcohol as the eluent and silica gel as the stationary phase. Like fractions were combined and concentrated by rotary evaporation to give 2.7 g (53%) of a glass.

reactant | toluene | 0.03 mol, 50 mL, 3.0 g | C1(=CC=CC=C1)C | C7H8
reactant | N-phenylpiperazine | 0.0183 mol, 2.94 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one | 0.012 mol, 3.5 g | ClCCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C | C14H17ClN4O
reactant | N-phenylpiperazine | 0.02 mol, 3.19 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | acetic anhydride | ~5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,4-Dihydro-1,4-dimethyl-2-[2-(4-phenyl-1-piperazinyl)ethyl]-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one hemihydrate | 2.7 g, 53% | O.CN1C(CN(C(N2C1=NC1=C2C=CC=C1)=O)C)CCN1CCN(CC1)C1=CC=CC=C1.CN1C(CN(C(N2C1=NC1=C2C=CC=C1)=O)C)CCN1CCN(CC1)C1=CC=CC=C1 | InChI=1S/2C24H30N6O.H2O/c2*1-26-18-20(12-13-28-14-16-29(17-15-28)19-8-4-3-5-9-19)27(2)23-25-21-10-6-7-11-22(21)30(23)24(26)31;/h2*3-11,20H,12-18H2,1-2H3;1H2
